US06706709B2
3-[5-(2-Pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one
A mixture of oxindole (26.6 mg, 0.2 mmol), 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde (52 mg, 0.2 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 61 mg (81%) of the title compound.

reactant | oxindole | 0.2 mmol, 26.6 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde | 0.2 mmol, 52 mg | N1(CCCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[5-(2-Pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-1,3-dihydro-indol-2-one | 61 mg, 81% | N1(CCCC1)CCOC=1C=C2C=C(NC2=CC1)C=C1C(NC2=CC=CC=C12)=O | C23H23N3O2
